Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine
 
Attending: ___.
 
Chief Complaint:
Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old ___ speaking woman with a past 
medical history significant for insulin dependent type 2 
diabetes poorly controlled with last HgbA1C =10.1 in ___ , 
HTN, recent cyst removal from ear 1 week ago, who p/w nausea and 
vomiting for and was found to have DKA. Per ICU note per family, 
she has had abdominal pain for the last 3 days. Per ICU note and 
ICU team she did not take her insulin the day prior to admission 
due to feeling unwell. But to me she states that she takes her 
insulin every day and she checks her BS 4x every day. Per ICU 
note, her family stated that she reported abdominal pain. On 
presentation: BUN/Cr ___, glucose 523 AG = 25, lactate 2.6, 
UA with low level ketones. Patient received 3L NS, 10U regular 
insulin SC, and was started on insulin gtt. Her Tm was 100.2. 
Her UA was negative for infection as was her CXR. The insulin 
gtt was d/ced and since then her BS are: 

Upon call out of the ICU she feels well. She denies any pain, 
chest pain, shortness of breath. Her nausea has resolved and she 
wants to go home. No diarrhea. No constipation. She is eating 
and drinking without difficulty.  She reports that she was only 
sick the day of admission before she came in. No sick contacts. 
She fell because she did not notice the uneven concrete. She 
reports that her BG were elevated just before she came in.
.
All other ROS negative except as above

 
Past Medical History:
DM2, HTN, Hyperlipidemia, Depression, Anxiety, Iron Deficiency 
Anemia, GERD, Chronic Back Pain, Insomnia.

Tongue cancer, sees specialist at ___, chronic anemia (per pt 
she has had since she was a ___ girl, h/o stomach ulcers 
years ago.

 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer
 
Physical Exam:
Pleasant elderly female who looks older than her stated age. 
HEENT: No scleral icterus. R ear surgical site c/d/i. No 
discharge from ear. No pain with movement or palpation of 
external auditory meatus. 
Moist MM
CV: Nml S1, S2, no m/r/g
Lungs: CTAB
Abd: soft, NT
Extremties: no edema, 2+ DPP pulses b/l
Neuro/Psych: pleasant, fluent speech but she often mumbles so 
that it was hard for even the ___ interpretor to understand 
her. No evidence of inattention nor delirium.
___ strength in upper and lower extremity strength.

Discharge exam:
afebrile, T max 98.9  95% RA
General: elderly female, no distress
HEENT: No scleral icterus. MMM
CV: Nml S1, S2, no m/r/g
Lungs: rare crackles at bases that improve with respiration
Abd: soft, NT
Extremties: no edema, 2+ DPP pulses b/l
Neuro/Psych: pleasant, fluent speech but she often mumbles so
that it was hard for even the ___ interpretor to understand
her. No evidence of inattention nor delirium.
___ strength in upper and lower extremity strength.

 
Pertinent Results:
___ 03:30AM BLOOD Glucose-523* UreaN-21* Creat-1.4* Na-135 
K-4.7 Cl-91* HCO3-19* AnGap-30*
___ 09:43AM BLOOD Glucose-257* UreaN-20 Creat-1.3* Na-142 
K-4.3 Cl-107 HCO3-23 AnGap-16
___ 04:30PM BLOOD Glucose-257* UreaN-15 Creat-1.1 Na-139 
K-4.3 Cl-106 HCO3-23 AnGap-14
___ 10:14PM BLOOD Glucose-282* UreaN-15 Creat-1.2* Na-134 
K-5.8* Cl-105 HCO3-18* AnGap-17
___ 12:38AM BLOOD Glucose-275* UreaN-14 Creat-1.2* Na-137 
K-4.6 Cl-106 HCO3-22 AnGap-14
___ 03:30AM BLOOD WBC-12.7*# RBC-4.33 Hgb-13.9 Hct-42.7 
MCV-99* MCH-32.2* MCHC-32.6 RDW-14.0 Plt ___
___ 03:30AM BLOOD Albumin-4.0 Calcium-10.0 Phos-3.4 Mg-1.4*
___ 09:43AM BLOOD Calcium-8.0* Phos-2.5* Mg-1.2*
___ 04:30PM BLOOD Calcium-8.0* Phos-1.5* Mg-2.5
___ 10:14PM BLOOD Calcium-8.0* Phos-2.0* Mg-2.1
___ 03:38AM BLOOD Lactate-2.6*
___ 06:48AM BLOOD Glucose-419* Na-137 K-3.9 Cl-102 
calHCO3-20*
___ 04:40PM BLOOD Lactate-2.0
___ 04:40PM BLOOD freeCa-1.20

 
___ MRSA SCREEN MRSA SCREEN-PENDING INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 

___  CXR
IMPRESSION:  
  
No acute cardiopulmonary process. 

Discharge labs:

___     RBCHgbHctMCVMCHMCHCRDWPlt Ct
___

GlucoseUreaNCreatNaKClHCO3AnGap
___

urine culture:
___ 4:20 am URINE      Source: ___. 

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------    16 R
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

blood cultures no growth to date

CT head:
FINDINGS: 
There is no evidence of intracranial hemorrhage, cerebral edema 
or signs of early infarction. The ventricles and sulci were 
within normal limits. Basal cisterns are patent. Gray-white 
matter differentiation is preserved. No fracture is identified. 
Other than mild ethmoid mucosal thickening, the maxillary and 
sphenoid sinuses are clear.  Opacification of right mastoid air 
cells, probably from recent mastoidectomy.  Two circular 
lucencies are seen adjacent to the right external ear canal 
(Se3: Im8), probably post surgical change given the recent 
surgery /residual mastoid air cells. Middle ear cavities are 
otherwise clear.  Included Orbits are unremarkable.
IMPRESSION:
1.  No acute intracranial hemorrhage or mass effect.
2.  Post-surgical changes from recent right mastoidectomy.

 
Brief Hospital Course:
___ year old female with h/o DKA presents with elevated blood
sugars, n/v low grade temps, AG metabolic acidosis concerning 
for
DKA.

# DKA: resolved. ongoing titration of insulin dependent diabetes
ongoing, appreciate ___ input. Better control over past 24
hours. Will discharge with levemir 25 units HS and continue
current humalog sliding scale. She has ___ follow up on
___.
 
# UTI- likely etiology of fever. E. coli in culture,
sensitivities pending. Given immunocompromised state with poorly
controlled diabetes, will treat for complicated UTI for 7 days
with ciprofloxacin, today day ___

# s/p EAR CYST REMOVAL: Removed on ___. Has had procedure one
time previously. Became opiod dependent after procedure. Tylenol
for pain control

# HTN  
- continue Amlodipine 10 mg PO DAILY  
- continue Propranolol 20 mg PO BID  
- restart losartan-hydrochlorothiazide 100-25 mg oral daily on
discharge

# Hyperlipidemia  
- continue Atorvastatin 20 mg PO HS  

# Anxiety/depression:  
- continue BusPIRone 10 mg PO TID  
- Paroxetine 40 mg PO DAILY

# GERD:  
- continue Omeprazole 40 mg PO DAILY, Ranitidine 150 mg daily 

# IRON DEFICIENCY ANEMIA
- continue ferrous sulfate and cyanobalamin  

# FEN: diabetic diet, IVF, replete electrolytes prn  
# Prophylaxis: heparin SC, omeprazole  
# Access: PIV  
# Restraints: none  
# Communication: Daughter ___ ___  
# Code: Full - confirmed on call out to the floor with ___
interpreter
# Disposition: discharged home today with ___ services (home
safety eval) and close ___ follow up
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 20 mg PO HS 
3. BusPIRone 10 mg PO TID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Paroxetine 40 mg PO DAILY 
8. Propranolol 20 mg PO BID 
9. Ranitidine 150 mg PO DAILY 
10. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
11. Omeprazole 40 mg PO DAILY 
12. Levemir Flexpen (insulin detemir) 100 unit/mL (3 mL) 
subcutaneous daily 
13. losartan-hydrochlorothiazide 100-25 mg oral daily 
14. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
QAC 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 20 mg PO HS 
3. BusPIRone 10 mg PO TID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. Paroxetine 40 mg PO DAILY 
9. Propranolol 20 mg PO BID 
10. Ranitidine 150 mg PO DAILY 
11. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
12. Ciprofloxacin 0.3% Ophth Soln 5 DROP RIGHT EAR 3 TIMES DAILY 

13. Docusate Sodium 100 mg PO BID 
14. Estrogens Conjugated 1 gm VG DAILY 
15. losartan-hydrochlorothiazide 100-25 mg oral daily 
16. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
QAC 
17. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth Q12 Disp #*13 
Tablet Refills:*0
18. Levemir (insulin detemir) 100 unit/mL subcutaneous HS 
RX *insulin detemir [Levemir Flexpen] 100 unit/mL (3 mL) 25 
units SC HS Disp #*3 Syringe Refills:*0
19. Dextromethorphan-Guaifenesin (Sugar Free) 5 mL PO Q6H:PRN 
cough 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diabetic ketoacidosis
Insulin dependent diabetes, uncontrolled, with complications
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with high blood sugars due to uncontrolled 
diabetes and diagnosed with a urinary tract infection. You will 
need to take an antibiotic called ciprofloxacin for one week to 
treat the urinary tract infection, the last day will be ___. 
You were also seen by the ___ team (diabetes doctors) and 
your insulin regimen was adjusted.

Please see below for your follow up appointments and 
medications.
 
Followup Instructions:
___